US20010044445A1
methyl 3-(1-methyl-1H-pyrrol-3-yl)-3-oxopropanoate
To a −78° C. solution of lithium hexamethyldisilazide (2 mL, 2 mmol) in tetrahydrofuran (5 mL) was added 3-acetyl-1-methylpyrrole (0.24 mL, 2 mmol). The reaction was warmed to 0° C. and stirred for 1 hour. The reaction mixture was again cooled to −78° C., and methylcyanoformate (0.19 mL, 2.4 mmol) was added. After stirring for 1 hour at −78° C., the reaction was slowly allowed to warm to room temperature. Then the reaction mixture was partitioned between ether and 1 N HCl. The organic layer was washed with saturated aqueous NaHCO3 and brine, dried over NaSO4, and concentrated to give crude material. Purification by HPLC (silica gel; acetone-hexane, 20:80) provided the desired product (0.18 g, 50% yield). MS (DCI/NH3) m/e 199 (M+NH4)+;

reactant | lithium hexamethyldisilazide | 2 mmol, 2 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-acetyl-1-methylpyrrole | 2 mmol, 0.24 mL | C(C)(=O)C1=CN(C=C1)C | C7H9NO
reactant | methylcyanoformate | 2.4 mmol, 0.19 mL | COC(=O)C#N | C3H3NO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | methyl 3-(1-methyl-1H-pyrrol-3-yl)-3-oxopropanoate | 0.18 g, 50% yield | CN1C=C(C=C1)C(CC(=O)OC)=O | C9H11NO3
